US05986029
a) Preparation of 4-hydroxy-4-(dimethylamino-ethyl)-3,5-dimethyl-2,5-heptadiene
2-bromo-2-butene (108 g; 0.800 mol) was added to 10.0 g of lithium (1.43 mol) in diethyl ether (300 ml) in about 30 minutes with reflux. After stirring overnight (17 hours), ethyl-3-(N,N-dimethylamino)propionate (52.0 g; 0.359 mol) was added to the reaction mixture in about 15 minutes. After stirring for 30 minutes at room temperature 200 ml of water was added dropwise. After separation the water phase was extracted two times with 50 ml of CH2Cl2. The organic phase was reduced by evaporation and the residue was distilled at reduced pressure. The yield was 51.0 g (67%).

reactant | 2-bromo-2-butene | 0.800 mol, 108 g | BrC(C)=CC | C4H7Br
reactant | lithium | 1.43 mol, 10.0 g | [Li] | Li
reactant | ethyl-3-(N,N-dimethylamino)propionate | 0.359 mol, 52.0 g | C(C)OC(CCN(C)C)=O | C7H15NO2
reactant | water | 200 ml | O | H2O
solvent | diethyl ether | 300 ml | C(C)OCC | C4H10O
product | 4-hydroxy-4-(dimethylamino-ethyl)-3,5-dimethyl-2,5-heptadiene | OC(C(=CC)C)(C(=CC)C)CCN(C)C | C13H25NO
